US06900215B2
3-(3-Bromo-2,6-difluorophenyl)thiophene-2-carbonitrile was reacted with bis(pinacolato)diboron as described in Example 1 to give 3-[2,6-difluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]thiophene-2-carbonitrile as a buff-coloured solid: m/z (ES+) 348 (M++H).

reactant | 3-(3-Bromo-2,6-difluorophenyl)thiophene-2-carbonitrile | BrC=1C(=C(C(=CC1)F)C1=C(SC=C1)C#N)F | C11H4BrF2NS
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 3-[2,6-difluoro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]thiophene-2-carbonitrile | FC1=C(C(=CC=C1B1OC(C(O1)(C)C)(C)C)F)C1=C(SC=C1)C#N | C17H16BF2NO2S
